US07754737B2
To a solution of tert-butyl (R)-1-(methoxycarbonyl)-2-hydroxyethylcarbamate (27.5 g, 0.126 mol) in DMF (250 mL) was added imidazole (25.7 g, 0.378 mol), followed by TBSCl (20.9 g, 0.139 mol) and the reaction mixture was stirred for 4 h. The solvents were removed in vacuo. EtOAc (300 mL) was added and the solution was washed with sat'd aq NH4Cl (2×100 mL), sat'd aq NaHCO3 (100 mL) and brine (100 mL), dried, filtered and evaporated to give tert-butyl (R)-1-(methoxycarbonyl)-2-(t-butyldimethylsilyloxy)ethylcarbamate (40 g, yield 95%) as an oil that was used without further purification. 1H NMR (CDCl3, 400 MHz): δ=0.02 (s, 6H), 0.86 (s, 9H), 1.45 (s, 9H), 3.73 (s, 3H), 3.82 (dd, J=14, 4.4 Hz, 1H), 4.05 (dd, J=13.2, 3.6 Hz, 1H), 4.35 (m, 1H), 5.34 (brs, 1H).

reactant | tert-butyl (R)-1-(methoxycarbonyl)-2-hydroxyethylcarbamate | 0.126 mol, 27.5 g | COC(=O)[C@@H](CO)NC(OC(C)(C)C)=O | C9H17NO5
reactant | imidazole | 0.378 mol, 25.7 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 0.139 mol, 20.9 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | tert-butyl (R)-1-(methoxycarbonyl)-2-(t-butyldimethylsilyloxy)ethylcarbamate | 40 g, yield 95% | COC(=O)[C@@H](CO[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C15H31NO5Si
